Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:15].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13][H:14]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-4.95413101281
[O:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[C:3]([H:4])#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11].[O:1]=[O:2],-1.09177833241
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])=[C:8][H:9])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])[C@:4]([H:5])(/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.58384795994
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([C:8]([H:9])[H:10])=[C:11]([H:12])[H:13]>>[C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]=[C:11]([H:12])[H:13],6.3191737669000005
[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13]>>[C:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13].[H:1][C:2]#[C:3],2.5774410105900003
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][H:11].[O:12][H:13]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13],-6.40247302991
[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11][H:12].[H:13]>>[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.968563255369999
[H:12].[H:1][O:2]/[C:3]([C:4]([H:5])[C:6]([H:7])([H:8])[H:9])=[C:10](\[H:11])[O:13][H:14]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-3.85359495762
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-1.939839682
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][O:11][H:12]>>[H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][O:11],3.72583665272
[C:3]#[C:4][H:5].[H:1][C:2]([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-4.935655102619999
[C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-5.54271356576
[H:1][C:2]([C:3][C:4]#[C:5][C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][C:2]([C:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.49047343544
[C:1]=[C:2]([O:3][H:4])[C:5](=[C:6][H:7])[O:8][H:9]>>[C:1]=[C:2]([O:3][H:4])[C:5](=[C:6])[O:8][H:9].[H:7],4.73657775582
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[O:4],4.90688844086
[C:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3][O:4][C:5][H:6]>>[H:1][O:2][C:3][O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11],-6.459326406340001
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:4]([H:5])([H:6])=[C:7]([H:8])[H:9].[H:1][C:2]#[C:3][C:10]([H:11])[H:12],0.7459790139
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]#[C:8].[H:9]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]#[C:8][H:9],-4.99931343939
[H:1][C:2]=[C:3]([H:4])[C:5]([C:6]#[C:7][H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][C:5]([C:6]#[C:7][H:8])=[C:9]([H:10])[H:11].[H:4],1.95080168035
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[O:14][H:15],5.3166174897000005
[H:9].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:7](=[O:8])[C:10]([H:11])([H:12])[H:13]>>[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-3.50351814089
[H:1][C:2]([H:3])([H:4])[C:5]1[C:6]([H:7])([H:8])[O:9][C:10]1([H:11])[H:12]>>[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[O:9])=[C:10]([H:11])[H:12],-0.119643366051
[H:1][O:2]/[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])#[C:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])=[C:5][H:6],2.20267822973
[C:9]([H:10])#[C:11][H:12].[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11][H:12],-0.6004965597999999
[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[O:7]>>[O:1]=[C:2]1[C:3][C:4]([H:5])([H:6])[O:7]1,-0.493245175489
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.37197851929
[O:1]=[C:2]1[C:3][C:4]([H:5])[C@:6]1([H:7])[O:8][H:9]>>[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]([H:7])[O:8][H:9],-0.510045677929
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14]>>[C:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][H:9],7.325781071789999
